US05840917
Aluminum chloride (14.6 g) was added portionwise to 2-bromo-3-methylthiophene (8.85 g) and dichloromethyl methyl ether (6.27 g) in dichloromethane (100 ml) under ice-cooling. The mixture was stirred at room temperature for 1 hour and poured into ice water, acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 5-bromo-4-methyl-2-thiophenecarbaldehyde (8.0 g). 5-Bromo-4-methyl-2-thiophenecarbaldehyde (6.18 g) was dissolved in acetonitrile (100 ml), and sodium dihydrogen phosphate (1.3 g) in water (20 ml) and 30% aqueous hydrogen peroxide (3.8 ml) were added. Further sodium chlorite (4.07 g) in water (50 ml) was added dropwise under ice-cooling. The mixture was stirred at room temperature for 2 hours, alkalified with 1N aqueous sodium hydroxide and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 5-bromo-4-methyl-2-thiophenecarboxylic acid (6.01 g) as crystals.

reactant | Aluminum chloride | 14.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-bromo-3-methylthiophene | 8.85 g | BrC=1SC=CC1C | C5H5BrS
reactant | dichloromethyl methyl ether | 6.27 g | COC(Cl)Cl | C2H4Cl2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-bromo-4-methyl-2-thiophenecarbaldehyde | 8.0 g | BrC1=C(C=C(S1)C=O)C | C6H5BrOS
